* C:\Users\evan6\Documents\Projects\Altium\Projects\abetterbreadboard\spice\7v\supps.asc
V1 N001 0 12
XU1 N002 N007 N005 N001 N001 MP_01 NC_02 N009 N004 N006 0 LT3680
L1 N002 N005 4.7µ
C1 N005 N007 470n
R1 N002 N009 78.6k
R2 N009 0 10k
D1 0 N005 MBRS360
R3 N004 N008 20k
C2 N008 0 22n
R4 N006 0 63.4k
C3 N002 0 33µ
XU2 N002 0 N003 0 VeRES
V2 N003 0 PULSE(100 5 3m 1n 1n 2m 4m)
C4 N004 0 470p
.model D D
.lib C:\Users\evan6\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10m startup uic
.lib ESM\Ideal Components\VEQRSIM.cir
.lib LT3680.sub
.backanno
.end
